US07638629B2
Step 1: 4-(Pentafluoroethyl)benzonitrile
4-Bromobenzonitrile (10 g, 54.9 mmol), sodium pentafluoropropionate (26.5 g, 0.143 mol) and copper (I) iodide (27.1 g, 0.142 mol) were heated to 150° C. in dry DMF (130 ml) for 4 h. The reaction mixture was diluted with water and Et2O and kieselgur filter aid was added. This bi-phasic mixture was stirred for 5 min, filtered and separated. The aqueous phase was extracted with Et2O. The combined organic phases were washed with water and aq. NH3, then dried over MgSO4, filtered and concentrated under reduced pressure to give the crude product as a brown oil. This was purified by flash chromatography (silica gel, 20-30% DCM in iso-hexanes) to give the title compound, 7.5 g (62%). 1H NMR (500 MHz, CDCl3): δ 7.75 (2H, d, J 8.3), 7.83 (2H, d, J 8.6), 19F NMR (470 MHz, CDCl3): δ −84.5, −116.

reactant | 4-Bromobenzonitrile | 54.9 mmol, 10 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | sodium pentafluoropropionate | 0.143 mol, 26.5 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Et2O | CCOCC | C4H10O
catalyst | copper (I) iodide | 0.142 mol, 27.1 g | [Cu]I
product | 4-(Pentafluoroethyl)benzonitrile | FC(C(F)(F)F)(C1=CC=C(C#N)C=C1)F | C9H4F5N
